US04659502
1-(p-Bromophenyl)-2-(trans-4-n-pentylcyclohexyl)-ethane [obtainable by Friedel-Crafts acylation of benzene with trans-4-n-pentylcyclohexylacetyl chloride, Wolff-Kishner reduction of the carbonyl group and bromination of the aromatic in the p-position] is subjected to a Grignard reaction with 4-(4,5-dihydro-4,4-dimethyl-2-oxazolyl)-cyclohexanone. Detachment of water, with simultaneous removal of the oxazolyl protective group, by boiling with ethanolic H2SO4, hydrogenation of the double bond, conversion of the ethyl ester into the amide, dehydration analogously to Example 2 and customary working up gives 1-[p-(trans-4-cyanocyclohexyl)-phenyl]-2-(trans-4-n-pentylcyclohexyl)-ethane.

reactant | 1-(p-Bromophenyl)-2-(trans-4-n-pentylcyclohexyl)-ethane | BrC1=CC=C(C=C1)CC[C@@H]1CC[C@H](CC1)CCCCC | C19H29Br
reactant | trans-4-n-pentylcyclohexylacetyl chloride | C(CCCC)[C@@H]1CC[C@H](CC1)CC(=O)Cl | C13H23ClO
reactant | 4-(4,5-dihydro-4,4-dimethyl-2-oxazolyl)-cyclohexanone | CC1(N=C(OC1)C1CCC(CC1)=O)C | C11H17NO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-[p-(trans-4-cyanocyclohexyl)-phenyl]-2-(trans-4-n-pentylcyclohexyl)-ethane | C(#N)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)CC[C@@H]1CC[C@H](CC1)CCCCC | C26H39N
